US06835731B2
N-(3-{[[2-(1H-Benzoimidazol-2-yl)-ethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-isonicotinamide
3,5-Dichloro-N-(4-{[[2-(1-methyl-1H-benzoimidazol-2-yl)-ethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-isonicotinamide 8-yl)-amino]-methyl}-benzyl)-isonicotinamide

reactant | 3,5-Dichloro-N-(4-{[[2-(1-methyl-1H-benzoimidazol-2-yl)-ethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-isonicotinamide | ClC1=C(C(=O)NCC2=CC=C(C=C2)CN(C2CCCC=3C=CC=NC23)CCC2=NC3=C(N2C)C=CC=C3)C(=CN=C1)Cl | C33H32Cl2N6O
reactant | isonicotinamide | C(C1=CC=NC=C1)(=O)N | C6H6N2O
product | N-(3-{[[2-(1H-Benzoimidazol-2-yl)-ethyl]-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-isonicotinamide | N1C(=NC2=C1C=CC=C2)CCN(C2CCCC=1C=CC=NC21)CC=2C=C(CNC(C1=CC=NC=C1)=O)C=CC2 | C32H32N6O
